US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine (315 mg) and 4-benzyloxy-2-chloromethyl-5′-isopropyl-2′-methoxy-biphenyl (300 mg) are dissolved in N,N-dimethylformamide (5 ml) and thereto is added sodium hydride (60%) (40.9 mg) under ice-cooling, and the mixture is stirred at room temperature overnight. Thereto are added a saturated aqueous ammonium chloride solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→97:3) to give (4-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine (458 mg). MS (m/z): 744/746 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine | 315 mg | FC(C=1C=C(CNC2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C13H8BrF6N3
reactant | 4-benzyloxy-2-chloromethyl-5′-isopropyl-2′-methoxy-biphenyl | 300 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)CCl | C24H25ClO2
reactant | sodium hydride | 40.9 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine | 458 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)CN(C1=NC=C(C=N1)Br)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C37H32BrF6N3O2
